US07855290B2
[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester
To a solution of a crude product of {4-[4-(benzyloxycarbonylamino)-2-fluorophenoxy]pyridin-2-yl}-N-(phenoxycarbonyl)carbamic acid phenyl ester (1.945 g) in tetrahydrofuran (100 ml) was added 20% palladium hydroxide on carbon (792 mg), followed by stirring under a hydrogen atmosphere at room temperature for 3 hr. The catalyst was removed by filtration and washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure, and the residue was dried under reduced pressure to provide a crude product of the titled compound as a brown oil (1.617 g).

reactant | {4-[4-(benzyloxycarbonylamino)-2-fluorophenoxy]pyridin-2-yl}-N-(phenoxycarbonyl)carbamic acid phenyl ester | 1.945 g | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)=O | C33H24FN3O7
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 792 mg | [OH-].[OH-].[Pd+2]
product | [4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 1.617 g | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=C(C=C(C=C1)N)F)=O | C25H18FN3O5
